US05767293
To a mixture of 6-carboxymethoxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]-octane (9.0 mg), triethylamine (2.5 mg), and 4-dimethylaminopyridine (0.6 mg) in dichloromethane (1 ml) was added dropwise tert-butylcarbonyl chloride (3.5 mg) under ice cooling. The mixture was stirred for half an hour at ambient temperature and propylamine (2.9 mg) was added. After stirred for 2 hours at the same temperature, the solution was washed with water, aqueous HCl solution, saturated aqueous NaHCO3 solution, and brine successively. The organic layer was dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (diethyl ether-ethyl acetate =1-1) to give 5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-6-propylcarbamoylmethoxy-1-oxaspiro[2,5]octane (7.6 mg).

reactant | 6-carboxymethoxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]-octane | 9.0 mg | C(=O)(O)COC1C(C(C2(CO2)CC1)C1(OC1CC=C(C)C)C)OC | C18H28O6
reactant | triethylamine | 2.5 mg | C(C)N(CC)CC | C6H15N
reactant | tert-butylcarbonyl chloride | 3.5 mg | C(C)(C)(C)C(=O)Cl | C5H9ClO
reactant | propylamine | 2.9 mg | C(CC)N | C3H9N
catalyst | 4-dimethylaminopyridine | 0.6 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-6-propylcarbamoylmethoxy-1-oxaspiro[2,5]octane | 7.6 mg | COC1C(C2(CO2)CCC1OCC(NCCC)=O)C1(OC1CC=C(C)C)C | C21H35NO5
